US07585881B2
Ethyl 8-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl}-3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-carboxylate
A solution of ethyl 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-carboxylate (182 mg, 0.67 mmol) in DMF (2 ml) was added to a stirred mixture of NaH (20 mg, 0.81 mmol) in DMF (2 ml). After 45 min a solution of 3-(1-chloroethyl)-5-(3-chlorophenyl)-1,2,4-oxadiazole (180 mg, 0.74 mmol) in DMF (1 ml) was added and the resulting solution was stirred at 65° C. for 3 h and then cooled to r.t. Aq. sat. NH4Cl solution was added and the mixture was extracted with EA. The organic phase was washed with water and brine, dried and concentrated. Column chromatography (DCM/MeOH 20:1) gave 207 mg (65%) of the title compound as a diastereomeric mixture. 1H NMR: 1.27 (t, 3 H), 1.34 (t, 3 H), 1.48 (d, 3 H), 1.55 (d, 3 H), 2.15 (m, 2 H), 2.18 (m, 4 H), 2.61 (m, 2 H), 4.00 (m, 2 H), 4.18-4.29 (m, 4 H), 4.30-4.40 (m, 2 H), 4.55 (q, 1 H), 4.65 (q, 1 H), 7.37 (t, 1 H), 7.44 (t, 1 H), 7.50 (m, 1 H), 7.55 (m, 1 H), 7.63 (d, 2 H), 7.69 (d, 2 H), 7.83 (m, 1 H), 7.92 (m, 1 H), 7.95 (m, 1 H), 8.05 (m, 1 H), 8.75 (d, 2H), 8.76 (d, 2 H)

reactant | ethyl 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-carboxylate | 0.67 mmol, 182 mg | N1=CC=C(C=C1)C1=NN=C2N1CCCC2C(=O)OCC | C14H16N4O2
reactant | NaH | 0.81 mmol, 20 mg | [H-].[Na+]
reactant | 3-(1-chloroethyl)-5-(3-chlorophenyl)-1,2,4-oxadiazole | 0.74 mmol, 180 mg | ClC(C)C1=NOC(=N1)C1=CC(=CC=C1)Cl | C10H8Cl2N2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | Ethyl 8-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl}-3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-carboxylate | 207 mg, 65% | ClC=1C=C(C=CC1)C1=NC(=NO1)C(C)C1(C=2N(CCC1)C(=NN2)C2=CC=NC=C2)C(=O)OCC | C24H23ClN6O3
